US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(3-methylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that 187 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 212 mg of 3-methylimidazo[5,1-b]thiazole were used, thereby obtaining 42.4 mg of the title compound.

reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 187 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 3-methylimidazo[5,1-b]thiazole | 212 mg | CC=1N2C(SC1)=CN=C2 | C6H6N2S
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(3-methylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 42.4 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC=C3C)=C2)C(=O)[O-])C1=O | C17H19N3O4S
